US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(4-chloro-3-iodo-phenyl)-propionic acid methyl ester
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoic acid was coupled to (S)-2-amino-3-(4-chloro-3-iodo-phenyl)-propionic acid methyl ester hydrochloride as in EXAMPLE 1, Part C, to afford title compound. HPLC: RT=10.87 min. MS (ESI+): mass calcd. for C23H17ClI2N4O5S2, 782.80; m/z found, 783/785 [M+H]+. 1H NMR (400 MHz, CDCl3): 11.31 (s,1H), 8.37 (dd, J=7.0, 0.9, 1H), 8.23 (dd, J=8.8, 0.9, 1H), 8.09 (d, J=1.5, 1H), 7.73 (dd, J=8.8, 7.1, 1H), 7.55 (d, J=2.0, 1H), 7.35-7.33 (m, 2H), 7.00-6.94 (m, 2H), 6.46 (d, J=7.1, 1H), 4.97-4.91 (m, 1H), 3.82 (s, 3H), 3.21-3.10 (m, 2H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)I | C13H8IN3O4S2
reactant | (S)-2-amino-3-(4-chloro-3-iodo-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC(=C(C=C1)Cl)I)N)=O
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(4-chloro-3-iodo-phenyl)-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)Cl)I)NC(C1=C(C=C(C=C1)I)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H17ClI2N4O5S2
